US05001137
To 20 ml of dimethylformamide are added 7.7 g of 3-cinnamoyl- 2-(4,5-dichloro-2-hydroxyphenoxy)pyridine and 3.3 g of potassium carbonate, and the mixture is stirred at room temperature for 30 minutes Thereto, 2.8 g of 2-dimethylaminoethyl chloride is added, and the mixture is stirred at 50° C. for 6 hours. The reaction mixture is poured into ice-water, followed by extraction with toluene After the extract is washed with water and dried over anhydrous magnesium sulfate, the solvent is distilled off. The residue is converted into its hydrochloride in isopropyl alcohol and the hydrochloride is recrystallized from isopropyl alcohol to give 3-cinnamoyl-2-[4,5-dichloro-2-(2-dimethylaminoethoxy)phenoxy]pyridine hydrochloride, m.p. 169°-171° C.

reactant | 3-cinnamoyl- 2-(4,5-dichloro-2-hydroxyphenoxy)pyridine | 7.7 g | C(C=CC1=CC=CC=C1)(=O)C=1C(=NC=CC1)OC1=C(C=C(C(=C1)Cl)Cl)O | C20H13Cl2NO3
reactant | potassium carbonate | 3.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-dimethylaminoethyl chloride | 2.8 g | CN(CCCl)C | C4H10ClN
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3-cinnamoyl-2-[4,5-dichloro-2-(2-dimethylaminoethoxy)phenoxy]pyridine hydrochloride | Cl.C(C=CC1=CC=CC=C1)(=O)C=1C(=NC=CC1)OC1=C(C=C(C(=C1)Cl)Cl)OCCN(C)C | InChI=1S/C24H22Cl2N2O3.ClH/c1-28(2)13-14-30-22-15-19(25)20(26)16-23(22)31-24-18(9-6-12-27-24)21(29)11-10-17-7-4-3-5-8-17;/h3-12,15-16H,13-14H2,1-2H3;1H
